US09301951B2
Intermediate 21c: tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-chlorophenyl)carbamoyl)benzylthio)propanoate
Into a 100-mL round bottom flask, was placed a solution of 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid (210 mg, 0.71 mmol, 1.20 equiv) in dichloromethane (35 mL), EDC.HCl (170.6 mg, 0.89 mmol, 1.50 equiv), 4-dimethylaminopyridine (108.8 mg, 0.89 mmol, 1.50 equiv), and N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-chlorophenyl)isonicotinamide (240 mg, 0.59 mmol, 1.00 equiv). The resulting solution was stirred for 6 h at 25° C. in an oil bath. The resulting solution was diluted with 100 mL of dichloromethane and washed with 2×50 mL of aqueous NH4Cl and brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum to yield 350 mg (86%) of product as a yellow solid.

reactant | 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid | 0.71 mmol, 210 mg, 1.20 equiv | C(C)(C)(C)OC(CCSCC=1C=C(C(=O)O)C=CC1)=O | C15H20O4S
reactant | EDC.HCl | 0.89 mmol, 170.6 mg, 1.50 equiv | CCN=C=NCCCN(C)C.Cl
reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-chlorophenyl)isonicotinamide | 0.59 mmol, 240 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)Cl)N)=O)C=CC1)(F)F | C20H15ClF3N3O
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.89 mmol, 108.8 mg, 1.50 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-chlorophenyl)carbamoyl)benzylthio)propanoate | 350 mg, 86% | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)Cl)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=CC1)(F)F | C35H33ClF3N3O4S
